US04943580
A mixture of 9.4 parts of 2-chloroacetonitrile, 30 parts of 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine, 11 parts of sodium carbonate and 658 parts of N,N-dimethylformamide was stirred over weekend at room temperature. The reaction mixture was poured into water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was stirred in 2,2'-oxybispropane. The product was filtered off and dried in vacuo, yielding 7.2 parts (21.0%) of 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetonitrile; mp. 141.4° C. (compound 92).

reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
reactant | 3-(2-ethoxyethyl)-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCNCC2 | C15H23N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidineacetonitrile | 21.0% | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CC#N | C17H24N6O
